Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Remicade
 
Attending: ___.
 
Chief Complaint:
recurrence of symptoms after tpa 
 
Major Surgical or Invasive Procedure:
tpa at outside hospital 
 
History of Present Illness:
Ms. ___ is a ___ F w PMHx of RA, asthma, and R hip
bursitis who presents to ___ from ___ s/p tPA and now
as a CODE STROKE for recurrence of R sided sensorimotor 
symptoms.
___ per ED resident at bedside was 8 (R sided weakness, 
sensory
deficit, dysarthria, facial droop). 
Ms. ___ reports that for several days prior to her
presentation to ___ she had a severe sinus headache. She
was sleeping for ___ hours per night and taking very little 
PO.
She also reports "not feeling right." 
On the day of presentation (___) she got OOB in the afternoon
to prepare some food just before 3PM. While standing at the
kitchen counter, she noticed a "crawling" sensation of
"novacaine" numbness across her right face and down her right
arm. Within a minute, the right face and right arm were numb. 
She
then felt her right arm "drooping." She went to call her husband
on the phone, but states that he could not understand her 
because
her speech was so slurred. She was not having any difficulty
thinking of what she wanted to say or difficulty understanding
her husband's speech. She did not cough on her own secretions.
She told him to come home to take her to the hospital.
After she hung up, however, she felt that her symptoms worsened
and that her right leg began to tingle as well. She denied overt
weakness, but at some point felt that she was unable to stand.
She called ___ and waited by the front door. 
She vomited once in the ambulance. 
She arrived at ___ with NIHSS of 7 (R sensorimotor,
dysarthria, R facial paresis) and received IV tPA at 5:45 (+2hrs
and 45mins after symptoms onset). She was hypertensive at
___, and required labetolol x3 + nicardipine drip to
achieve sBP <185. Following infusion of tPA, she reported near
complete resolution of her symptoms. She was hypertensive at
___, and required  Per ED transport, NIHSS was initially
0. At some point during her ambulance ride to ___ ED, however,
she experienced a recurrence of her symptoms (~19:30). Upon
arrival to ___ ED, her NIHSS was 8 and a CODE STROKE was
called. 
On my interview and examination, Ms. ___ reports several
fluctuations in her symptoms. Over our ~45 history and physical,
she reports some improvements, followed by some worsening,
followed by some improvements. Several hours later, a nurse
informed me that Ms. ___ has some worsening of her facial
numbness with no accompanying weakness. 
 
Past Medical History:
- Rheumatoid arthritis
- osteoarthritis, degenerative joint disease
- asthma
- scoliosis
- R hip bursitis
- L Bells palsy
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS T97.8 HR72 BP186/100 RR16 Sat100RA 
GEN - elderly F, anxious, cooperative
HEENT - NC/AT, MMM
NECK - full ROM, no meningismus
CV - RRR
RESP - normal WOB
ABD - soft, NT, ND
EXTR - atraumatic, WWP

___ Stroke Scale - Total [5]
1a. Level of Consciousness - 0
1b. LOC Questions - 0
1c. LOC Commands - 0
2. Best Gaze - 0
3. Visual Fields - 0
4. Facial Palsy - 0
5a. Motor arm, left - 0
5b. Motor arm, right - 1
6a. Motor leg, left - 0
6b. Motor leg, right - 1
7. Limb Ataxia - 0
8. Sensory - 1
9. Language - 0
10. Dysarthria - 1
11. Extinction and Neglect - 1

NEUROLOGICAL EXAMINATION:
MS - Awake, alert, oriented x3. Attention to examiner easily
attained and maintained. Concentration maintained when recalling
months backwards. Recalls a coherent history. Speech is fluent
with normal prosody and paraphasic errors. There is mild,
variable dysarthria over the course of the examination. Naming,
repetition, and comprehension are all intact. No evidence of
hemineglect. No left-right agnosia.

CN - [II] PERRL 3->2 brisk. VF full to number counting. [III, 
IV,
VI] EOMI, no nystagmus. [V] Reports decreased sensation to LT
over R V1 (80%), V2 (70%), V3 (50%). Reports decreased sensation
to PP over R V1 (85%) and V3 (70%). Splits midline to PP and
vibration over forehead.  [VII] No facial movement asymmetry 
with
forced eyelid closure or volitional smile. [VIII] Hearing intact
to voice. [IX, X] Palate elevation symmetric. [XI] SCM/Trapezius
strength ___ bilaterally. [XII] Tongue midline with full ROM.

MOTOR - Normal bulk and tone. No pronation, no drift. No 
orbiting
with arm roll. No tremor or asterixis.
=[Delt] [Bic] [Tri] [ECR] [IO] [IP] [Quad] [Ham] [TA] [Gas] 
[___]
  [C5]  [C5]  [C7]  [C6]  [T1] [L2]  [L3]  [L5]  [L4] [S1]  [L5]
L  5      5     5     5     5    5    5      5     5    5     5
R  5      5     5     5     5    5    5      5     5    5     5
*There is diffuse give-way weakness through the RUE and RLE,
though strength is essentially full.

SENSORY - Reports variable patches of pins and needles (over R
cheek, R ___ and ___ toes) that wax and wane over the course of
hours. Reports decrement to LT, PP, and vibration over RUE.
Reports decreased proprioception at the RLE. No sensory level
over the back or chest. After the completion of the interview 
and
examination, reports that her sensory complaints have 
essentially
resolved

REFLEXES - 
=[Bic] [Tri] [___] [Quad] [Gastroc]
L 2+     2+     2+     2+       2+
R 2+     2+     2+     2+       2+
Bilateral pectoral jerks.
Plantar response mute on the R, up on the L

COORD - No dysmetria with finger to nose or heel-shin testing.
Good speed and intact cadence with rapid alternating movements.

GAIT - Deferred.
=========================================================

DISCHARGE PHYSICAL EXAM:
MS: Alert, interactive, speech fluent, comprehension intact, no 
dysarthria
CN: II-XII intact
MOTOR: full strength in upper and lower extremities with much 
coaching, give away weakness prevelant otherwise
Sensory: Intact to light touch in face, arms, legs. Pin prick 
intact in all extremities except circumferentially around the 
right ankle
Coordination: No dysmetria on FNF
Gait: Normal stride

 
Pertinent Results:
ADMISSION LABS:
___ 08:05PM BLOOD WBC-5.0 RBC-4.46 Hgb-13.8 Hct-40.7 MCV-91 
MCH-30.9 MCHC-33.9 RDW-13.2 RDWSD-44.2 Plt ___
___ 08:05PM BLOOD Neuts-74.3* Lymphs-18.2* Monos-6.3 
Eos-0.4* Baso-0.4 Im ___ AbsNeut-3.68 AbsLymp-0.90* 
AbsMono-0.31 AbsEos-0.02* AbsBaso-0.02
___ 08:05PM BLOOD ___ PTT-26.8 ___
___ 02:05AM BLOOD Glucose-99 UreaN-11 Creat-0.7 Na-141 
K-3.9 Cl-108 HCO3-21* AnGap-16
___ 08:05PM BLOOD ALT-22 AST-24 AlkPhos-67 TotBili-0.4
___ 08:05PM BLOOD Lipase-41
___ 08:05PM BLOOD cTropnT-<0.01
___ 02:05AM BLOOD CK-MB-1 cTropnT-<0.01
___ 02:05AM BLOOD Albumin-4.1 Calcium-9.1 Phos-3.4 Mg-2.1 
Cholest-251*
___ 09:42PM BLOOD %HbA1c-5.0 eAG-97
___ 02:05AM BLOOD Triglyc-68 HDL-102 CHOL/HD-2.5 
LDLcalc-135*
___ 08:05PM BLOOD TSH-2.0
___ 08:05PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

IMAGING:
CTA HEAD AND NECK ___:
1. Patent circle of ___.
2. Patent vasculature in the neck with no evidence of internal 
carotid artery stenosis by NASCET criteria.
3. No acute intracranial abnormality.

TTE ___:
The left atrium is normal in size. No atrial septal defect or 
patent foramen ovale is seen by 2D, color Doppler or saline 
contrast with maneuvers. Left ventricular wall thickness, cavity 
size and regional/global systolic function are normal (LVEF = 
65%). Tissue Doppler imaging suggests a normal left ventricular 
filling pressure (PCWP<12mmHg). Right ventricular chamber size 
and free wall motion are normal. The diameters of aorta at the 
sinus, ascending and arch levels are normal. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. The 
mitral valve appears structurally normal with trivial mitral 
regurgitation. The estimated pulmonary artery systolic pressure 
is normal. There is no pericardial effusion. 

MRI BRAIN ___:
1. No acute infarction.
2. Persistent fluid versus mucous retention cyst along the floor 
of the rightmaxillary sinus.  Please correlate clinically 
whether the patient has anysymptoms of acute sinusitis.

CT HEAD ___:
No evidence of hemorrhage or acute intracranial abnormality on 
noncontrast head CT.

DISCHARGE LABS:
NONE
 
Brief Hospital Course:
___ is a ___ woman with PMH significant for RA, 
asthma, and R hip bursitis who presented to ___ from 
___ s/p tPA and was called as a CODE STROKE for 
recurrence of R sided sensorimotor symptoms. NIHSS per ED 
resident at bedside was 8 (R sided weakness, sensory deficit, 
dysarthria, facial droop). However on neurology examination 
there was significant fluctuation of symptoms (both sensory and 
motor). Her sensory symptoms did not correspond to a clear 
neurological distribution, and her motor examination was only 
remarkable for diffuse give-way weakness and poor effort. She 
was significantly hypertensive on presentation with SBPs into 
the low 200s. She was admitted to the neuro ICU for post tPA 
monitoring. Her MRI was without acute stroke or evidence of 
chronic changes. Her 24hour CT was without evidence of 
hemorrhage and she was transitioned to the neurology floor. A 
TTE was done which was without thrombus or PFO. Stroke risk 
factors included: A1C of 5.0 and an LDL of 135. She was started 
on Aspirin and Atorvastatin.  She should be closely monitored to 
see if she has paroxysmal HTN.

Transitional issues:
-neurology follow-up

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Venlafaxine 37.5 mg PO DAILY 
2. tocilizumab unknown  injection unknown 
3. Naproxen 500 mg PO Q8H:PRN pain 
4. coenzyme Q10 unknown  oral unknown 
5. Fish Oil (Omega 3) unknown  PO Frequency is Unknown 
6. biotin unknown  oral unknown 
7. Hydroxychloroquine Sulfate Dose is Unknown  PO Frequency is 
Unknown 
8. FoLIC Acid 1 mg PO DAILY 

 
Discharge Medications:
1. Venlafaxine 37.5 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*3
3. Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*3
4. Naproxen 500 mg PO Q8H:PRN pain 
5. FoLIC Acid 1 mg PO DAILY 
6. biotin unknown  ORAL Frequency is Unknown 
7. coenzyme Q10 unknown  ORAL Frequency is Unknown 
8. Fish Oil (Omega 3) unknown  PO Frequency is Unknown 
9. Hydroxychloroquine Sulfate unknown  PO Frequency is Unknown 
10. Tocilizumab unknown  INJECTION Frequency is Unknown 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Right hemiparesis and sensory changes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to ___ with right sided weakness and sensory 
changes concerning for stroke and received a blood thinning 
medication. You had an MRI which did not show any evidence of 
stroke so the cause of your symptoms is not completely clear. We 
checked your risk factors for stroke and found that you had high 
cholesterol so you were started on Atorvastatin. You were also 
started on Aspirin for future stroke prevention. Your blood 
pressure was high when you presented to the hospital. You should 
check & record your blood pressure on your own a few times daily 
for a week or so, and review the readings with your PCP. You had 
an ultrasound of your heart which was normal. You should 
follow-up with your PCP and neurologist at the appointment 
scheduled below. 

It was a pleasure taking care of you, 
Your ___ Doctors.  
 
Followup Instructions:
___